US05217971
A mixture of 1,2-bis(4-methoxyphenyl)-2-chloroethanone (1.00 g) and N-diaminomethylenethiourea (0.65 g) in ethanol (20 ml) was refluxed for 12 hours. After allowing to cool to ambient temperature, then the reaction mixture was poured into water and extracted with ethyl acetate. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed n alumina, eluting with a mixture of chloroform and methanol. The desired fractions were combined and concentrated in vacuo. The residue was washed with isopropy ether to give 4,5-bis(4methoxyphenyl)-2-guanidinothiazole (0.65 g).

reactant | 1,2-bis(4-methoxyphenyl)-2-chloroethanone | 1.00 g | COC1=CC=C(C=C1)C(C(Cl)C1=CC=C(C=C1)OC)=O | C16H15ClO3
reactant | N-diaminomethylenethiourea | 0.65 g | NC(=NC(=S)N)N | C2H6N4S
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5-bis(4methoxyphenyl)-2-guanidinothiazole | 0.65 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)NC(=N)N | C18H18N4O2S
